US04562186
[3-(4-Chlorobenzoyl)-1,2,4-oxadiazol-5-yl]acetic acid
To a flask containing 5.2 g of isopropyl [3-(4-chlorobenzoyl)-1,2,4-oxadiazol-5-yl]acetate was added 35 ml of cold concentrated H2SO4. The resulting mixture was stirred and swirled for 15 minutes. The resulting solution was poured slowly into mechanically stirred ice water to precipitate the product. The solid was collected by filtration, washed with excess water and dried under vacuum for 48 hours at room temperature to give 3.9 g of a solid. Recrystallization from acetone/hexane gave 2.5 g (56%) of a solid, m.p. 136°-137°.

reactant | isopropyl [3-(4-chlorobenzoyl)-1,2,4-oxadiazol-5-yl]acetate | 5.2 g | ClC1=CC=C(C(=O)C2=NOC(=N2)CC(=O)OC(C)C)C=C1 | C14H13ClN2O4
reactant | H2SO4 | 35 ml | OS(=O)(=O)O | H2O4S
product | [3-(4-Chlorobenzoyl)-1,2,4-oxadiazol-5-yl]acetic acid | 3.9 g | ClC1=CC=C(C(=O)C2=NOC(=N2)CC(=O)O)C=C1 | C11H7ClN2O4
